US06329380B1
Step B: 2-[1-(1-Benzyloxycarbonylpiperidin-3-yl)ethylamino]-4-[5-(pyridin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-hexanesulfonyl-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine and 2-hexanesulfoxide-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine 1:1 mixture and 3-(1-aminoethyl)-1-(benzyloxy-carbonyl)piperidine according to the procedure described in EXAMPLE 17 using DMSO instead of toluene as solvent. Mass spectrum (ESI) 534.4 (M+1)

reactant | 2-hexanesulfonyl-4-[5-(pyridin-4-yl)-benzimidazol-1-yl]pyrimidine | C(CCCCC)S(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C22H23N5O2S
reactant | 3-(1-aminoethyl)-1-(benzyloxy-carbonyl)piperidine | NC(C)C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C15H22N2O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-[1-(1-Benzyloxycarbonylpiperidin-3-yl)ethylamino]-4-[5-(pyridin-4-yl)benzimidazol-1-yl]pyrimidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC=NC=C2 | C31H31N7O2
